US07737166B2
N-(2-Bromo-5-cyano-3-methoxy-6-methylbiphenyl-4-yl)2,2,2-trifluoroacetamide (I-38)
N-(3-Bromo-6-cyano-4-iodo-2-methoxy-5-methylphenyl)-2,2,2-trifluoroacetamide (I-36) (1.29 g, 2.79 mmol), 2-phenyl-1,3,2-dioxaborinane (474 mg, 2.93 mmol), tripotassium phosphate (74-85%, 1.48 g, 5.58 mmol) and tetrakis(triphenylphosphine)palladium(0) (406 mg, 0.352 mmol) were added to a 30-ml eggplant-type flask, followed by purging with nitrogen, N,N-dimethylformamide (50 ml) was injected into it with a syringe, followed by stirring overnight at 95° C. After cooling, the reaction liquid was diluted with ethyl acetate, successively washed with saturated brine (×3), 1 N hydrochloric acid, saturated brine, an aqueous saturated sodium hydrogencarbonate solution and saturated brine. The organic layer was dried on anhydrous magnesium sulfate, then the solvent was concentrated under reduced pressure to obtain a brown residue. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=6:1) to obtain the entitled compound (968 mg, 84%) as a brown solid.

reactant | N-(3-Bromo-6-cyano-4-iodo-2-methoxy-5-methylphenyl)-2,2,2-trifluoroacetamide | 2.79 mmol, 1.29 g | BrC=1C(=C(C(=C(C1I)C)C#N)NC(C(F)(F)F)=O)OC | C11H7BrF3IN2O2
reactant | 2-phenyl-1,3,2-dioxaborinane | 2.93 mmol, 474 mg | C1(=CC=CC=C1)B1OCCCO1 | C9H11BO2
reactant | tripotassium phosphate | 5.58 mmol, 1.48 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.352 mmol, 406 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(2-Bromo-5-cyano-3-methoxy-6-methylbiphenyl-4-yl)2,2,2-trifluoroacetamide | 968 mg, 84% | BrC1=C(C(=C(C(=C1OC)NC(C(F)(F)F)=O)C#N)C)C1=CC=CC=C1 | C17H12BrF3N2O2
